US05874427
N-[4-fluorobenzoyl]-5-amino-3-(1,2,3,4,5,8-hexahydroindolizin-7-yl)pyrrolo[3,2-b]pyridine
A mixture of 0.10 gm (0.39 mMol) 5-amino-3-(1,2,3,4,5,8-hexahydroindolizin-7-yl)pyrrolo[3,2-b]pyridine and 0.56 μL (0.47 mMol) 4-fluorobenzoyl chloride in 10 mL pyridine was stirred at 55° C. for 18 hours. The reaction mixture was then partitioned between 1N sodium hydroxide and 3:1 chloroform:isopropanol. The phases were separated and the organic phase washed with saturated aqueous sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to radial chromatography (2 mm silica plate) eluting with dichloromethane containing 10% methanol and 1% ammonium hydroxide. Fractions containing product were combined and concentrated under reduced pressure to provide 0.077 gm (57%) of the title compound. The title compound was recrystallized twice from ethanol:water and dried under reduced pressure to provide a sample for analysis.

reactant | 5-amino-3-(1,2,3,4,5,8-hexahydroindolizin-7-yl)pyrrolo[3,2-b]pyridine | 0.39 mMol, 0.10 gm | NC1=CC=C2C(=N1)C(=CN2)C2=CCN1CCCC1C2 | C15H18N4
reactant | 4-fluorobenzoyl chloride | 0.47 mMol, 0.56 μL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-fluorobenzoyl]-5-amino-3-(1,2,3,4,5,8-hexahydroindolizin-7-yl)pyrrolo[3,2-b]pyridine | 0.077 gm, 57% | FC1=CC=C(C(=O)N2C=C(C3=NC(=CC=C32)N)C3=CCN2CCCC2C3)C=C1 | C22H21FN4O
